US07553969B1
To a solution of Tyr(3-tBu)-OCH3 (1.5 g, 5.97 mmol) in MeOH (10 ml), aqueous ammonia (10 ml) was added and stirred at room temperature overnight. The mixture was evaporated to remove the solvent under reduced pressure and the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methylene chloride:methanol=10:1), giving Tyr(3-tBu)-NH2 (1.4 g, 99%).

reactant | Tyr(3-tBu)-OCH3 | 5.97 mmol, 1.5 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | ammonia | 10 ml | N | H3N
solvent | MeOH | 10 ml | CO | CH4O
product | Tyr(3-tBu)-NH2 | 1.4 g, 99% | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N | C13H20N2O2
